US04239901
16 g of 4-chloro-1-(3-chloro-p-tolyl)pyrazole, 13 g of N-bromosuccinimide, 0.32 g of dibenzoylperoxide and 170 ml of carbon tetrachloride are heated to the boil for 1.5 hours. The resulting solution is cooled, filtered and evaporated to dryness. The obtained residue (20.1 g) is recrystallized from cyclohexane to yield 14.7 g (68% of theory) of 4-chloro-1-(4-bromomethyl-3-chlorophenyl)pyrazole (m.p. 77° to 78° C.).

reactant | 4-chloro-1-(3-chloro-p-tolyl)pyrazole | 16 g | ClC=1C=NN(C1)C1=C(C=C(C=C1)C)Cl | C10H8Cl2N2
reactant | N-bromosuccinimide | 13 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | carbon tetrachloride | 170 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | dibenzoylperoxide | 0.32 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 4-chloro-1-(4-bromomethyl-3-chlorophenyl)pyrazole | 14.7 g, 68% | ClC=1C=NN(C1)C1=CC(=C(C=C1)CBr)Cl | C10H7BrCl2N2
